US05246931
Step A: 1,2-bis(hydroxymethyl)-3-methylenecyclobutane
To a stirred solution of 40.0 g (0.188 mol) of 1,2-bis(ethoxycarbonyl-3-methylenecyclobutane (Cripps, H. N.; Williams, J. K.; Sharkey, W. H. J. Am. Chem. Soc. 1959, 81, 2723-2728) in 1.4 L of diethyl ether at 0° C. was added 14.4 g (0.379 mol) of lithium aluminum hydride in small portions. After 2 h at 0° C., 14.4 mL of H2O, 14.4 mL of 15% aq. NaOH, and then 44.0 mL of H2O were added sequentially. The resulting white solid was removed by filtration and washed thoroughly with diethyl ether. Concentration of the combined filtrates under reduced pressure afforded 17.1 g (71%) of the title compound as an oil, judged to be 95% pure by NMR: Rf 0.27 (silica gel, 1:1/acetone:hexane); IR (CDCl3) cm-1; 1H NMR (CDCl3) 1.66 (bs, 1H, OH), 2.24-2.41 (m, 2H), 2.44 (bs, 1H, OH), 2.57-2.71 (m, 1H), 2.87-2.96 (m, 1 H), 3.54, 3.58 (2 dd, 2H, J=J'=12 Hz, CH2O), 3.79, 3.84 (2 dd, 2H, J=10.5 Hz, J'=4.5 Hz, CH2O), 4.78, 4.82 (2 ddd, 2H, J=J'=J"=2.5 Hz, C=CH2); 13C NMR (CDCl3, CDCl3 =77.00 ppm)146.21, 105.39, 66.13, 63.74, 51.70, 38.67, 31.86; DCI- NH3MS, m/z 129 (M+1)+, 146 (M+NH4+)+.

reactant | ethoxycarbonyl-3-methylenecyclobutane | C(C)OC(=O)C1CC(C1)=C | C8H12O2
reactant | lithium aluminum hydride | 0.379 mol, 14.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 14.4 mL | O | H2O
reactant | NaOH | 14.4 mL | [OH-].[Na+]
reactant | H2O | 44.0 mL | O | H2O
reactant | diethyl ether | 1.4 L | C(C)OCC | C4H10O
product | 1,2-bis(hydroxymethyl)-3-methylenecyclobutane | 17.1 g, 71% | OCC1C(C(C1)=C)CO | C7H12O2
